US04728663
6,8-Dichloro-N-[5-(1H-imidazol-1-yl)pentyl]benz[cd]indol-2-amine
A mixture of 5.0 g of 6,8-dichloro-benz[cd]indole-2-thiol, 3.1 g of 5-(1H-imidazol-1-yl)pentanamine, 100 ml of dry dimethylformamide and 6.3 g of mercuric acetate was reacted as described in Example 1, giving 1.8 g of the desired product, mp 191°-192.5° C.

reactant | 6,8-dichloro-benz[cd]indole-2-thiol | 5.0 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)S)C=CC2 | C11H5Cl2NS
reactant | 5-(1H-imidazol-1-yl)pentanamine | 3.1 g | N1(C=NC=C1)CCCCCN | C8H15N3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6,8-Dichloro-N-[5-(1H-imidazol-1-yl)pentyl]benz[cd]indol-2-amine | 1.8 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)NCCCCCN1C=NC=C1)C=CC2 | C19H18Cl2N4
